US07732626B2
Methyl 4′-hydroxy-2′,6′-dimethyl-6-(phenoxymethyl)biphenyl-3-carboxylate
To a solution of methyl 4′-(methoxymethoxy)-2′,6′-dimethyl-6-(phenoxymethyl)biphenyl-3-carboxylate (1.77 g, 4.35 mmol) in a mixed solvent of methanol (10 mL) and dimethoxyethane (5 mL) was added 10% hydrogen chloride-methanol solution (1 mL), and the mixture was stirred at 45° C. for 16 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-25:75) to give the title compound (1.47 g, yield 93%) as a colorless amorphous powder.

reactant | methyl 4′-(methoxymethoxy)-2′,6′-dimethyl-6-(phenoxymethyl)biphenyl-3-carboxylate | 4.35 mmol, 1.77 g | COCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1COC1=CC=CC=C1)C(=O)OC)C | C25H26O5
reactant | methanol | 10 mL | CO | CH4O
reactant | hydrogen chloride methanol | 1 mL | Cl.CO
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
product | Methyl 4′-hydroxy-2′,6′-dimethyl-6-(phenoxymethyl)biphenyl-3-carboxylate | 1.47 g, yield 93% | OC1=CC(=C(C(=C1)C)C1=CC(=CC=C1COC1=CC=CC=C1)C(=O)OC)C | C23H22O4
